US05929085
(a) 2,3-Dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride
To 3-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.0 g, 8.75 mmol) in 37% formaldehyde (7.0 ml, 87.5 mmol) was added 96% formic acid (3.5 ml, 87.5 mmol) and sodium formate (0.60 g, 8.75 mmol). The mixture was heated at reflux for 1 h, cooled, dumped into basic water and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered, and concentrated to an oil. The oil was dissolved in ethanol and treated with isopropanol-HCl. The solids were collected by filtration (2.0 g, 95%), m.p. 242-244° C.

reactant | 3-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 8.75 mmol, 2.0 g | Cl.CC1NCC2=CC(=CC=C2C1)[N+](=O)[O-]
reactant | formaldehyde | 87.5 mmol, 7.0 ml | C=O | CH2O
reactant | formic acid | 87.5 mmol, 3.5 ml | C(=O)O | CH2O2
reactant | sodium formate | 8.75 mmol, 0.60 g | C(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2,3-Dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.CN1CC2=CC(=CC=C2CC1C)[N+](=O)[O-] | InChI=1S/C11H14N2O2.ClH/c1-8-5-9-3-4-11(13(14)15)6-10(9)7-12(8)2;/h3-4,6,8H,5,7H2,1-2H3;1H
